US04665188
5.0 g of ethyl 5-oxo-5,6,7,8-tetrahydro-2-naphthalenecarboxylate was mixed with 2.5 g of 3-pyridinealdehyde, 10 ml of acetic acid and 10 ml of piperidine and then the mixture was stirred at 100° C. for 4 hours. The reaction mixture was concentrated in vacuo and the residue was dissolved in ethyl acetate. 10% Hydrochloric acid was added to the solution. The aqueous layer was separated and neutralized by addition of sodium bicarbonate. The mixture was extracted with chloroform. The extract was washed with water, dried and then concentrated in vacuo. The residue was purified by silica gel column chromatography to give 5.6 g of ethyl 6-(3-pyridylmethylidene)-5-oxo-5,6,7,8-tetrahydro-2-naphthalenecarboxylate as pale yellow crystals with m.p. 112°-114° C.

reactant | ethyl 5-oxo-5,6,7,8-tetrahydro-2-naphthalenecarboxylate | 5.0 g | O=C1C=2C=CC(=CC2CCC1)C(=O)OCC | C13H14O3
reactant | 3-pyridinealdehyde | 2.5 g | N1=CC(=CC=C1)C=O | C6H5NO
reactant | piperidine | 10 ml | N1CCCCC1 | C5H11N
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | ethyl 6-(3-pyridylmethylidene)-5-oxo-5,6,7,8-tetrahydro-2-naphthalenecarboxylate | 5.6 g | N1=CC(=CC=C1)C=C1C(C=2C=CC(=CC2CC1)C(=O)OCC)=O | C19H17NO3
